US04518597
6-[3-(3,4-Dichloro-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(3-chloropropoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dichloro-thiophenol.

reactant | 6-(3-chloropropoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C13H16ClNO3
reactant | 3,4-dichloro-thiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
product | 6-[3-(3,4-Dichloro-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C19H19Cl2NO3S
